US04713109
(c) 5-chloro-2,3-difluoropyridine
A suspension of 64.6 g (1.1 mol) of potassium fluoride and 11.25 g (0.075 mol) of cesium-fluoride in 240 ml of sulfolane (1,1-dioxo-tetrahydrothiophene) is heated to 140° C. By reducing the pressure 50 ml of sulfolane are distilled off. To the suspension a solution of 61.4 g (0.37 mol) of 2,5-dichloro-3-fluoropyridine in 20 ml of sulfolane is added. The reaction-mixture is then stirred for 35 hours at a temperature of 140°, cooled and poured into ice/water. The organic material is extracted with ether. The ethereal layer is washed with water dried over magnesium sulfate, filtered and evaporated to yield 48.7 g of a colourless oil (88% of the theory) which boils at 65°-66° at 133 mbar.

reactant | potassium fluoride | 1.1 mol, 64.6 g | [F-].[K+]
reactant | cesium-fluoride | 0.075 mol, 11.25 g | [F-].[Cs+]
reactant | 2,5-dichloro-3-fluoropyridine | 0.37 mol, 61.4 g | ClC1=NC=C(C=C1F)Cl | C5H2Cl2FN
solvent | sulfolane | 240 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | sulfolane | 20 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | sulfolane | 50 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-chloro-2,3-difluoropyridine | 48.7 g | ClC=1C=C(C(=NC1)F)F | C5H2ClF2N
